US07271261B2
2-(3-Nitro-phenyl)-1H-benzoimidazole-5-carboxylic acid amide. To a flask containing crude 4-amino-benzaldehyde (100 mg, 0.82 mmol), pyridine (0.15 mL, 1.87 mmol) and CH2Cl2 (4 mL), was added 3,4-dichlorobenzenesulfonyl chloride (184 mg, 0.75 mmol). The mixture was stirred for 16 h at room temperature, and was then cooled and concentrated. The crude product was purified by silica gel flash chromatography (eluted with 5% methanol/CH2Cl2) to provide 179 mg (72%) of 3,4-dichloro-N-(4-formyl-phenyl)-benzenesulfonamide.

reactant | 2-(3-Nitro-phenyl)-1H-benzoimidazole-5-carboxylic acid amide | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C14H10N4O3
reactant | 4-amino-benzaldehyde | 0.82 mmol, 100 mg | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | pyridine | 1.87 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 0.75 mmol, 184 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3,4-dichloro-N-(4-formyl-phenyl)-benzenesulfonamide | 179 mg, 72% | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=CC=C(C=C1)C=O | C13H9Cl2NO3S
